US07622583B2
A mixture of acetone (0.1 mL, 1.4 mmol), acetic acid (0.078 mL, 1.43 mmol) and 3-amino-pyrazole-1-carboxylic acid tert-butyl ester (200 mg, 1.1 mmol) in DCM (5 mL) was stirred at RT for 1 hour. Sodium triacetoxyborohydride (467 mg, 2.2 mmol) was added and the mixture stirred overnight. The mixture was extracted with ethyl acetate, washed with water, dried and concentrated. The residue was purified by flash column to give 3-Isopropylamino-pyrazole-1-carboxylic acid tert-butyl ester.

reactant | acetone | 1.4 mmol, 0.1 mL | CC(=O)C | C3H6O
reactant | acetic acid | 1.43 mmol, 0.078 mL | C(C)(=O)O | C2H4O2
reactant | 3-amino-pyrazole-1-carboxylic acid tert-butyl ester | 1.1 mmol, 200 mg | C(C)(C)(C)OC(=O)N1N=C(C=C1)N | C8H13N3O2
reactant | Sodium triacetoxyborohydride | 2.2 mmol, 467 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-Isopropylamino-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C=C1)NC(C)C | C11H19N3O2
